US08426432B2
2,4-Diamino-5-iodo-6-methylpyrimidine (250 mg) was allowed to react with 1,2,3-Trimethoxy-5-(prop-2-ynyl)benzene (412 mg) as per the general procedure to afford 2,4-Diamino-5-(3-(3,4,5-trimethoxyphenyl)prop-1-ynyl)-6-methylpyrimidine as a white powder (280 mg, 85%): Rf=0.31 (9:1, CHCl3:MeOH); mp=164-166° C.; 1H NMR (DMSO-d6) δ 6.72 (s, 2H), 6.42 (s, 2H), 3.85 (s, 2H), 3.76 (s, 6H), 3.63 (s, 3H), 2.24 (s, 3H); 13C NMR (DMSO-d6) δ 165.0, 164.3, 159.7, 152.8, 135.9, 132.8, 105.0, 96.3, 89.3, 75.8, 60.0, 55.8, 25.7, 21.7; HRFAB[M+Li]335.1679 (calculated C17H20N4O3Li: 335.1695).

reactant | 2,4-Diamino-5-iodo-6-methylpyrimidine | 250 mg | NC1=NC(=C(C(=N1)N)I)C | C5H7IN4
reactant | 1,2,3-Trimethoxy-5-(prop-2-ynyl)benzene | 412 mg | COC1=C(C(=CC(=C1)CC#C)OC)OC | C12H14O3
product | 2,4-Diamino-5-(3-(3,4,5-trimethoxyphenyl)prop-1-ynyl)-6-methylpyrimidine | 280 mg, 85% | NC1=NC(=C(C(=N1)N)C#CCC1=CC(=C(C(=C1)OC)OC)OC)C | C17H20N4O3
